US05358951
(Cis)-2-Butyl-6-(hexahydro-6,6-dimethylpyrrolo[1,2-b]isoxazol-2-yl)-3-[[2'-(1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
A solution of 0.320 g of (Cis)-2-butyl-6-(hexahydro-6,6-dimethylpyrrolo[1,2-b]isoxazol-2-yl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone in 5.0 ml of methanol and 1.0 ml of tetrahydrofuran is heated at reflux for 18 hours. The volatiles are evaporated in vacuo to a residue which is purified by column chromatography on silica gel by elution with 99:1 to 1 chloroform-methanol to give 0.194 g of the desired product as a solid. FAB mass spec 576 (M+H).

reactant | (Cis)-2-butyl-6-(hexahydro-6,6-dimethylpyrrolo[1,2-b]isoxazol-2-yl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.320 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@@H]1C[C@@H]2N(O1)C(CC2)(C)C | C53H51N7O2
solvent | methanol | 5.0 ml | CO | CH4O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | (Cis)-2-Butyl-6-(hexahydro-6,6-dimethylpyrrolo[1,2-b]isoxazol-2-yl)-3-[[2'-(1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.194 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)[C@@H]1C[C@@H]2N(O1)C(CC2)(C)C | C34H37N7O2
